data/oMe_Silver.jsonl
{"reaction_id": "NR-219_1-c1ccc(O[Si](C(C)(C)C)(C)C)cc1_2-C(C)(C)C_6-C1CC1","level": "medium","name": "Pfitzner-Moffatt oxidation","reactants_smiles": ["O=S(C)C","O=C(O)C","OC(c1ccc(O[Si](C(C)(C)C)(C)C)cc1)(C(C)(C)C)","C1CC1N=C=NC1CC1"],"products_smiles": ["S(C)C","O=C(O)C","O=C(c1ccc(O[Si](C(C)(C)C)(C)C)cc1)(C(C)(C)C)","C1CC1NC(=O)NC1CC1"],"conditions": null,"mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "N(C1CC1)=C(N(C1CC1))O[S+](C)C","step_weight": 0,"rationale": "The carbodiimide oxygen attacks DMSO sulfur because sulfur is electrophilic and polarizable; this forms an activated sulfonium intermediate stabilized by resonance with the carbodiimide."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "N(C1CC1)=C(N(C1CC1))OS(C)(C)[O]Cc3ccccc3","step_weight": 0,"rationale": "The activated sulfonium intermediate reacts with the alcohol oxygen, whose lone pairs attack the electrophilic sulfur, favored by the good leaving ability of the carbodiimide-derived group."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[NH](C1CC1)C(=[NH+](C1CC1))OS(C)(C)OC(c1ccc(O[Si](C(C)(C)C)(C)C)cc1)(C(C)(C)C)","step_weight": 0,"rationale": "Proton transfer occurs to neutralize charges and generate a better leaving group; acid–base equilibrium is facilitated by the polar environment and the basic nitrogen atoms."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccc(O[Si](C(C)(C)C)(C)C)cc1)(C(C)(C)C)[O][S](=C)C","step_weight": 0,"rationale": "The alkoxide oxygen attacks the activated sulfur, forming a sulfonium alkoxysulfonium species; this step is driven by the high electrophilicity of the sulfur center."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=C(c1ccc(O[Si](C(C)(C)C)(C)C)cc1)(C(C)(C)C)","step_weight": 0,"rationale": "Elimination occurs as the leaving group departs, driven by the formation of a stable carbonyl and the favorable expulsion of a neutral dimethyl sulfide."}],"description": "In the Pfitzner–Moffatt oxidation, DMSO is activated by a carbodiimide to form an electrophilic sulfonium species, which reacts with the alcohol. Subsequent proton transfers and elimination steps drive the conversion of the alcohol to a carbonyl compound under mild, non-aqueous conditions."}
{"reaction_id": "NG-008_1-c1ccc(N(=O)=O)cc1_2-c1ccc(OC)cc1_3-c1c(Cl)cc(Cl)cc1","name": "Baeyer-Villiger oxidation","level": "easy","reactants_smiles": ["C(c1ccc(N(=O)=O)cc1)(=O)(c1ccc(OC)cc1)","C(c1c(Cl)cc(Cl)cc1)(=O)OO"],"products_smiles": ["C(c1ccc(N(=O)=O)cc1)(=O)Oc1ccc(OC)cc1"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(N(=O)=O)cc1)(=[OH+])c1ccc(OC)cc1","rationale": "Protonation of the carbonyl oxygen increases the electrophilicity of the carbonyl carbon via inductive and resonance effects, making it more susceptible to nucleophilic attack by the peracid."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccc(N(=O)=O)cc1)([OH])(OOC(=O)c1c(Cl)cc(Cl)cc1)c1ccc(OC)cc1","rationale": "The peracid oxygen acts as a nucleophile, attacking the activated carbonyl carbon; acid catalysis stabilizes the tetrahedral intermediate through protonation of the carbonyl."},{"step": 3,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(c1ccc(N(=O)=O)cc1)(=[OH+])Oc1ccc(OC)cc1","rationale": "A 1,2-shift occurs from the more migratory c1ccc(OC)cc1 group to the adjacent oxygen, driven by stabilization of the developing carbocation and relief of positive charge on the leaving group."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(N(=O)=O)cc1)(=O)Oc1ccc(OC)cc1","rationale": "Deprotonation restores neutrality, yielding the ester product; the acidic medium facilitates proton transfers to complete the catalytic cycle."}],"description": "Under acidic conditions, the carbonyl is activated toward nucleophilic attack by protonation, allowing the peracid to add. A 1,2-shift then occurs, driven by stabilization of the developing positive charge, yielding the ester after deprotonation."}
